US07759385B2
{4-[4-(1H-indol-3-yl)piperidine-1-yl]-1-phenylcyclohexyl}-dimethylamine
3-piperidine-4-yl-1H-indole (200 mg, 1 mmole) and 4-dimethylamino-4-phenylcyclohexanone (217 mg, 1 mmole) were dissolved in dry 1,2-dichloroethane (20 ml). Glacial acetic acid (1 mmole) and sodium triacetoxy boron hydride (300 mg, 1.4 mmole) were added to this mixture. The reaction mixture was then stirred for 24 hours at RT. The reaction mixture was worked up by distilling off the 1,2-dichloroethane and diluting with water (10 ml). The reaction mixture was adjusted to pH 11 with 5M NaOH and extracted with EE (3×20 ml). The organic phase was dried with Na2SO4 and concentrated by evaporation. The product was a mixture of two diastereoisomeric compounds, which were separated by chromatography with methanol. The polar and the non-polar diastereoisomers were obtained in each case as a colourless oil in a yield of 90 mg (22%).

reactant | 3-piperidine-4-yl-1H-indole | 1 mmole, 200 mg | N1CCC(CC1)C1=CNC2=CC=CC=C12 | C13H16N2
reactant | 4-dimethylamino-4-phenylcyclohexanone | 1 mmole, 217 mg | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | acetic acid | 1 mmole | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | {4-[4-(1H-indol-3-yl)piperidine-1-yl]-1-phenylcyclohexyl}-dimethylamine | N1C=C(C2=CC=CC=C12)C1CCN(CC1)C1CCC(CC1)(C1=CC=CC=C1)N(C)C | C27H35N3
